US08309580B2
(1) methyl 5-bromo-2-[(methylsulfanyl)methyl]furan-3-carboxylate
To a solution of methyl 5-bromo-2-(bromomethyl)furan-3-carboxylate (8.9 g) in tetrahydrofuran (50 mL) was added sodium methanethiolate (2.5 g) at 0° C., and the mixture was stirred overnight at room temperature. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The organic layer was washed with water, and dried over magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel chromatography (0% ethyl acetate/hexane to 10% ethyl acetate/hexane) to give the title compound (6.7 g, 84%) as an oil.

reactant | methyl 5-bromo-2-(bromomethyl)furan-3-carboxylate | 8.9 g | BrC1=CC(=C(O1)CBr)C(=O)OC | C7H6Br2O3
reactant | sodium methanethiolate | 2.5 g | C[S-].[Na+]
reactant | water | O | H2O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | methyl 5-bromo-2-[(methylsulfanyl)methyl]furan-3-carboxylate | 6.7 g, 84% | BrC1=CC(=C(O1)CSC)C(=O)OC | C8H9BrO3S
